US04640929
To 20 ml of chloroform were added 1.6 g (0.01 mole) of diethyl malonate and 4.3 g (0.01 mole) of 1,3-bis(benzenesulfonylthio)-2-(N,N-dimethylamino)propane, and then 2.1 g (0.02 mole) of triethylamine was added thereto at room temperature. After completion of addition, the reaction was allowed to proceed at 40° C. for 4 hours. The reaction mixture was washed with two 20-ml portions of water, dried over anhydrous sodium sulfate and concentrated to dryness. The residue was heated in 20 ml of ether-hexane (1:1) for dissolution and the solution was allowed to stand in the cold overnight. The resulting crystalline precipitate was collected by filtration to give 2.7 g (90%) of 2,2-diethoxycarbonyl-5-(N,N-dimethylamino)-1,3-dithiane as light-yellow crystals melting at 38°-39° C.

reactant | diethyl malonate | 0.01 mole, 1.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,3-bis(benzenesulfonylthio)-2-(N,N-dimethylamino)propane | 0.01 mole, 4.3 g | C1(=CC=CC=C1)S(=O)(=O)SCC(CSS(=O)(=O)C1=CC=CC=C1)N(C)C | C17H21NO4S4
reactant | triethylamine | 0.02 mole, 2.1 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,2-diethoxycarbonyl-5-(N,N-dimethylamino)-1,3-dithiane | 2.7 g, 90% | C(C)OC(=O)C1(SCC(CS1)N(C)C)C(=O)OCC | C12H21NO4S2
